US06323199B1
(−)-4-Bromo-5-[4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-phthalide
55 mg of (−)-5-[4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-phthalide is mixed under nitrogen in 1 ml of dimethylformamide at 2° C. with 18 mg of N-bromosuccinimide. After 2 hours at this temperature, it is diluted with 20 ml of ethyl acetate, extracted with water, and the organic phase is dried (Na2SO4) and concentrated by evaporation. With chromatography on silica gel, the title compound in crystalline form is eluted with hexane/ethyl acetate (4:1), flash point 228-232° C.

reactant | (−)-5-[4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-phthalide | 55 mg | FC=1C=CC(=C(C1)C(CC(CNC=1C=C2COC(=O)C2=CC1)(C(F)(F)F)O)(C)C)O | C21H21F4NO4
reactant | N-bromosuccinimide | 18 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (−)-4-Bromo-5-[4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-phthalide | BrC1=C2COC(=O)C2=CC=C1NCC(CC(C)(C)C1=C(C=CC(=C1)F)O)(C(F)(F)F)O | C21H20BrF4NO4
